US05192778
20.0 g of methyl orthoformate was dropped in about 1.5 hours in a mixture of 10 g of 2-nitroiminohexahydropyrimidine, 20 ml of 1,3-dimethyl-2-imidazolidinone and 0.05 g of sulfuric acid at 150° C., followed by heating under reflux for further 1 hour while removing the resultant distillate by means of the Dean-Stark trap. After cooling to room temperature, the mixture was poured into water, and extracted with ethyl acetate. After washing with water, the extract was dried with anhydrous magnesium sulfate, after which the solvent was distilled off under reduced pressure. The resultant oily substance was purified by column chromatography [silica gel, eluant: hexane/ethyl acetate (1:2)] to give 1.5 g of 1-dimethoxymethyl-2-nitroiminohexahydropyrimidine.

reactant | methyl orthoformate | 20.0 g | C(OC)([O-])[O-]
reactant | 1,3-dimethyl-2-imidazolidinone | 20 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | sulfuric acid | 0.05 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-nitroiminohexahydropyrimidine | 10 g | [N+](=O)([O-])N=C1NCCCN1 | C4H8N4O2
product | 1-dimethoxymethyl-2-nitroiminohexahydropyrimidine | 1.5 g | COC(N1C(NCCC1)=N[N+](=O)[O-])OC | C7H14N4O4
